US05264415
2-(4-chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]butyramide
To a 500 mL flask was charged 100.0 g (0.38 mole) of alpha-(4-chlorophenyl)-alpha-ethyl-1H-1,2,4-triazole-1-propanenitrile and 100 mL of dimethyl sulfoxide. To the stirring solution was added 100 g (1.25 mole) of 50% sodium hydroxide. The reaction mixture was heated at 100° C. for 1 hour after which GLC indicated the starting material was consumed. The reaction was poured into water and extracted with ethyl acetate. After washing with brine, the organic phase was dried over magnesium sulfate and concentrated under vacuum without heating. Removal of the solvent gave a foamy glassy solid which was triturated with hexane, filtered and gave 97 g (91% yield) of a white solid, Example 153 of Table 1.

reactant | alpha-(4-chlorophenyl)-alpha-ethyl-1H-1,2,4-triazole-1-propanenitrile | 0.38 mole, 100.0 g | ClC1=CC=C(C=C1)C(C#N)(CN1N=CN=C1)CC | C13H13ClN4
reactant | sodium hydroxide | 1.25 mole, 100 g | [OH-].[Na+]
solvent | dimethyl sulfoxide | 100 mL | CS(=O)C | C2H6OS
product | 2-(4-chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]butyramide | 97 g, 91% yield | ClC1=CC=C(C=C1)C(C(=O)N)(CC)CN1N=CN=C1 | C13H15ClN4O
